US08048897B2
(3) Synthesis of 2-(4-Methoxybenzyl)-5-fluorophenol
To a solution of (2-benzyloxy-4-fluorophenyl)-(4-methoxyphenyl)-methanol (2.095 g, 6.19 mmol) in methanol (20 mL), a 20% palladium hydroxide catalyst (200 mg) was added and furthermore 2N—HCl (0.3 mL) was added thereto. The mixture was stirred under a hydrogen atmosphere for 16 hours, and then the catalyst was filtered off. The solvent was distilled under reduced pressure, and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:5)] to obtain the title compound (489 mg, 34%).

reactant | (2-benzyloxy-4-fluorophenyl)-(4-methoxyphenyl)-methanol | 6.19 mmol, 2.095 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)C(O)C1=CC=C(C=C1)OC | C21H19FO3
reactant | HCl | 0.3 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium hydroxide | 200 mg | [OH-].[Pd+2].[OH-]
product | 2-(4-Methoxybenzyl)-5-fluorophenol | 489 mg, 34% | COC1=CC=C(CC2=C(C=C(C=C2)F)O)C=C1 | C14H13FO2
